US05593617
0.6 g of N,N'-dicyclodicyclohexylcarbodiimide is added at room temperature while stirring to a solution of 1.0 g of 4-[6-acryloyloxyhexyloxy]benzoic acid, 0.3 g of 4-hydroxybenzaldehyde and 0.04 g of 4-dimethylaminopyridine in 20 ml of dichloromethane. The reaction mixture is stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of dichloromethane each time. The combined organic phases are washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate is subsequently concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 1:1) and two-fold recrystallization from ethanol of the fractions which are pure according to thin-layer chromatography gives 0.9 g of 4-(4-[6-acryloyloxyhexyloxy]phenylcarbonyloxy)benzaldehyde.

reactant | 4-[6-acryloyloxyhexyloxy]benzoic acid | 1.0 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | 4-hydroxybenzaldehyde | 0.3 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | water | 100 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(4-[6-acryloyloxyhexyloxy]phenylcarbonyloxy)benzaldehyde | 0.9 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=CC=C(C=O)C=C1 | C23H24O6
